US06121272
1-[(4-Butoxyphenyl)sulfonyl]-cis-4-hydroxy-D-proline (6a):
Cis-4-hydroxy-D-proline (0.308 g, 2.67 mmol) is dissolved in 16 mL of a 1:1 mixture of water and p-dioxane and then triethyl amine (0.819 mL, 5.89 mmol), 4-butoxyphenylsulfonyl chloride (0.700 g, 2.81 mmol), and 4-dimethylaminopyridine (0.033 g, 0.268 mmol) are added. The resulting solution is stirred at room temperature overnight. The reaction is then washed with sodium bicarbonate and extracted once with ether. The water layer is acidified with 1N HCl to pH=2 and extracted three times with ethyl acetate. The ethyl acetate layers are washed with ammonium chloride, dried (MgSO4), filtered and evaporated to give the crude compound. Cl+ MS: m/z (rel intensity) 361 (M+ +H, 40).

reactant | Cis-4-hydroxy-D-proline | 2.67 mmol, 0.308 g | O[C@@H]1C[C@@H](NC1)C(=O)O | C5H9NO3
reactant | triethyl amine | 5.89 mmol, 0.819 mL | C(C)N(CC)CC | C6H15N
reactant | 4-butoxyphenylsulfonyl chloride | 2.81 mmol, 0.700 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO3S
solvent | water | O | H2O
solvent | p-dioxane | O1CCOCC1 | C4H8O2
catalyst | 4-dimethylaminopyridine | 0.268 mmol, 0.033 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-[(4-Butoxyphenyl)sulfonyl]-cis-4-hydroxy-D-proline | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](C(=O)O)C[C@H](C1)O | C15H21NO6S
